US08604210B2
Synthesis of 2-(3-(biphenyl-4-yl)-5-(diphenylboryloxy)-1H-pyrazol-1-yl)pyridine (52)
1 mmol of 3-(4-iodophenyl)-1-(pyridin-2-yl)-1H-pyrazol-5-ol was charged in a 50 mL round-bottom flask and dissolved in 1,4-dioxane (10 mL), and phenylboronic acid (2.5 equivalents, manufactured by Aldrich) and K3PO4 (3 equivalents) were added thereto. Thereafter, PdCl2(dppf) (0.08 equivalents, manufactured by Aldrich) and dppf (1,1′-bis(diphenylphosphino)ferrocene, 0.04 equivalents, manufactured by Aldrich) were added thereto, followed by heating at 100° C. for 10 minutes. After the solid was filtered through Celite, the organic layer was concentrated under reduced pressure, dissolved in ethyl acetate and then washed with water. The organic layer was dried over anhydrous MgSO4 and concentrated. The resulting residue was purified by column chromatography (n-hexane:EA=8:1 (v/v)) to afford the title compound.

reactant | 3-(4-iodophenyl)-1-(pyridin-2-yl)-1H-pyrazol-5-ol | 1 mmol | IC1=CC=C(C=C1)C1=NN(C(=C1)O)C1=NC=CC=C1 | C14H10IN3O
reactant | phenylboronic acid | 2.5 equivalents | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | K3PO4 | 3 equivalents | [O-]P(=O)([O-])[O-].[K+].[K+].[K+]
reactant | 1,4-dioxane | 10 mL | O1CCOCC1 | C4H8O2
catalyst | PdCl2(dppf) | 0.08 equivalents | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
catalyst | dppf | 0.04 equivalents | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | 2-(3-(biphenyl-4-yl)-5-(diphenylboryloxy)-1H-pyrazol-1-yl)pyridine | C1(=CC=C(C=C1)C1=NN(C(=C1)OB(C1=CC=CC=C1)C1=CC=CC=C1)C1=NC=CC=C1)C1=CC=CC=C1 | C32H24BN3O
